US05652250
5-nitro-3-indolealdehyde
Then a solution of 5-nitroindole (1.62 g, 0.01 mol) in 1,2-dichloroethane (50 ml) was added and the mixture heated to reflux for 3 h. After cooling the mixture was poured onto iced water, the precipitate filtered off and washed with water. Thereupon the residue was chromatographed over silica gel using benzene/ethylacetate as eluant. Thus pure title compound was obtained in 80% yield (1.52 g).

reactant | 5-nitroindole | 0.01 mol, 1.62 g | [N+](=O)([O-])C=1C=C2C=CNC2=CC1 | C8H6N2O2
reactant | water | O | H2O
reactant | 1,2-dichloroethane | 50 ml | ClCCCl | C2H4Cl2
product | 5-nitro-3-indolealdehyde | 80% yield | [N+](=O)([O-])C=1C=C2C(=CNC2=CC1)C=O | C9H6N2O3
